US07989457B2
(3-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol
To a 0° C. solution of 3-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester (300 mg, 1.02 mmol) in THF/MeOH (10/3 mL) is added portion-wise sodium borohydride (386 mg, 10.20 mmol) and heated to reflux. After 1 h TLC (20% EtOAc/hexane) indicates complete consumption of starting material. The reaction mixture is concentrated and the residue is partitioned between EtOAc (100 mL) and 0.2N HCl (20 mL). The aqueous layer is extracted with a second portion of EtOAc (50 mL). The combined organic layers are washed with brine, dried (MgSO4), filtered and concentrated to yield the title compound (268 mg, 99%). 1NMR (400 MHz, CDCl3) δ ppm: 7.69 (s, 4H), 7.50-7.39 (m, 3H), 4.77 (s, 2H), 2.44 (s, 3H).

reactant | 3-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester | 1.02 mmol, 300 mg | COC(=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C16H13F3O2
reactant | sodium borohydride | 10.20 mmol, 386 mg | [BH4-].[Na+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF MeOH | 3 mL | C1CCOC1.CO
product | (3-Methyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol | 268 mg, 99% | CC=1C=C(C=CC1CO)C1=CC=C(C=C1)C(F)(F)F | C15H13F3O
